US04754023
m-aminophenylurea;
4-acetamino-2-aminotoluene or 2-aminoanisole;

reactant | 4-acetamino-2-aminotoluene | N(C(=O)C)C1=CC(=C(C=C1)C)N | C9H12N2O
reactant | 2-aminoanisole | NC1=C(C=CC=C1)OC | C7H9NO
product | m-aminophenylurea | NC=1C=C(C=CC1)NC(=O)N | C7H9N3O
